US07321061B2
Methanol (2.2 L) and (2,6-dimethyl-phenyl)-methanesulfonic acid sodium salt (185 g) were combined in a multi-necked 5 L flask equipped with overhead stirring. The mixture was cooled to 0° C. and hydrogen chloride (112 g) was passed through the mixture, maintaining an internal temperature of <10° C. The mixture was stirred for 2 h and allowed to warm to room temperature. The mixture was clarified by filtration. The filtrate was concentrated to 600 mL volume at ambient pressure and azeotroped with toluene (3×600 mL). Heptane (1.1 L) was added to the mixture as it cooled to <10° C. The solid product was collected by filtration and washed with heptane (100 mL). The product was dried at 40° C. in vacuo to constant weight to give (2,6-dimethyl-phenyl)-methanesulfonic acid (149 g, 89%). 1H NMR (300 MHz, DMSOd6): δ 7.0-6.91 (m, 3H, ArH), 4.40 (s, 2H, CH2), and 2.34 (s, 6H, CH3).

reactant | (2,6-dimethyl-phenyl)-methanesulfonic acid sodium salt | 185 g | [Na+].CC1=C(C(=CC=C1)C)CS(=O)(=O)[O-]
reactant | hydrogen chloride | 112 g | Cl | ClH
solvent | Methanol | 2.2 L | CO | CH4O
product | (2,6-dimethyl-phenyl)-methanesulfonic acid | 149 g, 89% | CC1=C(C(=CC=C1)C)CS(=O)(=O)O | C9H12O3S
